US07067540B2
Step 2. Preparation of 3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-[(5-methylpyrazin-2-yl)methyl]pyridin-2(1H)-one
To a solution of 3-chloro-4-hydroxy-6-methyl-1-[(5-methylpyrazin-2-yl)methyl]pyridin-2(1H)-one (2.48 g, 9.3 mmol) in DMA (7 mL)was added K2CO3 (1.54 g, 11.0 mmol) followed by 2,4-difluorobenzyl bromide (1.2 mL, 9.3 mmol). The reaction mixture stirred at room temperature under nitrogen for 1.5 hours. The solvent was distilled in vacuo. The resulting residue was diluted in dichloromethane and washed with water. The organic extracts were concentrated and the resulting residue was purified by flash column chromatography (ethyl acetate). The appropriate fractions were combined, and concentrated. 1H NMR (CD3OD, 400 MHz) δ 8.49 (d, 1H, J=1.2 Hz), 8.40 (s, 1H), 7.59 (m, 1H), 7.04 (m, 2H), 6.54 (s, 1H), 5.41 (s, 2H), 5.28 (s, 2H), 2.54 (s, 3H), 2.40 (s, 3H); ES-HRMS m/z 392.1014 (M+H calculated for C19H17N3O2ClF2 requires 392.0972).

reactant | 3-chloro-4-hydroxy-6-methyl-1-[(5-methylpyrazin-2-yl)methyl]pyridin-2(1H)-one | 9.3 mmol, 2.48 g | ClC=1C(N(C(=CC1O)C)CC1=NC=C(N=C1)C)=O | C12H12ClN3O2
reactant | K2CO3 | 11.0 mmol, 1.54 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,4-difluorobenzyl bromide | 9.3 mmol, 1.2 mL | FC1=C(CBr)C=CC(=C1)F | C7H5BrF2
solvent | DMA | 7 mL | CC(=O)N(C)C | C4H9NO
product | 3-chloro-4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-[(5-methylpyrazin-2-yl)methyl]pyridin-2(1H)-one | ClC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC1=NC=C(N=C1)C)=O | C19H16ClF2N3O2
